US05199970
Preparation of N-(n-butyl)-2-[4-(5-trifloromethyl-2-pyridyloxy)phenoxy]-propionic acid amide (compound No. 2)
A mixture containing 17.1 g (0.05 mol) of methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)-phenoxy]-propionate and 7.3 g (0.1 mol) of n-butylamine is heated at 80°-85° C. for 6 hours while stirring, then cooled and diluted with 50 ml of benzene. The benzene solution is shaken with 5% aqueous hydrochloric acid solution and then washed with water to acid-free. After separation the organic phase is dried over anhydrous sodium sulfate and evaporated to dryness. The crude product can be recrystallized from a mixture of benzene with petroleum ether (b.p. 70° C.) The compounds Nos. 1, 6, 7 and 8 are similarly prepared from the corresponding starting materials.

reactant | methyl 2-[4-(5-trifluoromethyl-2-pyridyloxy)-phenoxy]-propionate | 0.05 mol, 17.1 g | FC(C=1C=CC(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)(F)F | C16H14F3NO4
reactant | n-butylamine | 0.1 mol, 7.3 g | C(CCC)N | C4H11N
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | N-(n-butyl)-2-[4-(5-trifloromethyl-2-pyridyloxy)phenoxy]-propionic acid amide | C(CCC)NC(C(C)OC1=CC=C(C=C1)OC1=NC=C(C=C1)C(F)(F)F)=O | C19H21F3N2O3
